US07319104B2
[4-(2-{(5-Methylpyridin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)-2-propylphenoxy]acetic acid
Alkylation of 4-(2-{(5-methylpyridin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)-2-propylphenol with tert-butyl-bromo-acetate, followed by standard TFA hydrolysis (as described in previous examples) provided after chromatography the title compound as a white foam.

reactant | 4-(2-{(5-methylpyridin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)-2-propylphenol | CC=1C=CC(=NC1)N(CCC1=CC(=C(C=C1)O)CCC)CC1=CC=C(C=C1)C(F)(F)F | C25H27F3N2O
reactant | tert-butyl-bromo-acetate | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | [4-(2-{(5-Methylpyridin-2-yl)[4-(trifluoromethyl)benzyl]amino}ethyl)-2-propylphenoxy]acetic acid | CC=1C=CC(=NC1)N(CCC1=CC(=C(OCC(=O)O)C=C1)CCC)CC1=CC=C(C=C1)C(F)(F)F | C27H29F3N2O3
